US05554757
Synthesis of 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl -2-yl)oxazoline
2.62 g (8.05 mmol) of 4,4-dimethyl-2-(4'-methoxymethoxymethylbiphenyl-2-yl)oxazoline was dissolved in methanol (20 ml). 6N hydrochloric acid (10 ml) was added thereto, followed by stirring at 40° C. for 2 hours. The reaction liquid was poured into a saturated aqueous solution of sodium hydrogen-carbonate, carbonate, followed by the extraction with chloroform. After washing with water and drying, vacuum concentration was conducted. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 2.20 g of the title compound as a crystal (yield 97%).

reactant | 4,4-dimethyl-2-(4'-methoxymethoxymethylbiphenyl-2-yl)oxazoline | 8.05 mmol, 2.62 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)COCOC)C | C20H23NO3
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
reactant | carbonate | C([O-])([O-])=O
solvent | methanol | 20 ml | CO | CH4O
product | 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl -2-yl)oxazoline | 2.20 g, yield 97% | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO)C | C18H19NO2
